US04060603
i. N-t-Butoxycarbonyl-trans-3-methyl-L-proline
Triethylamine (3.5 ml) and t-butyl-2,4,5-trichlorophenyl carbonate (3.5 g) were added to a solution of trans-3-methyl-L-proline (1.25 g) in t-butanol (12 ml) and water (8 ml). The mixture was heated to 60° for 2 hours, evaporated, the residue dissolved in 1 N sodium bicarbonate solution (50 ml) and the solution washed with ether. Excess solid citric acid was added, the product extracted into ethyl acetate, the combined extracts dried (Na2SO4) and evaporated giving a crude crystalline product (1.6 g). Recrystallisation from ethyl acetate/light petroleum (40°-60°) gave the desired product (1.33 g), m.p. 146°-150° [α]D20 - 60.1° (c, 1.0, chloroform)

reactant | Triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl-2,4,5-trichlorophenyl carbonate | 3.5 g | C(OC1=C(C(=C(C(=C1)Cl)Cl)C(C)(C)C)Cl)([O-])=O
reactant | trans-3-methyl-L-proline | 1.25 g | C[C@@H]1[C@H](NCC1)C(=O)O | C6H11NO2
solvent | t-butanol | 12 ml | C(C)(C)(C)O | C4H10O
solvent | water | 8 ml | O | H2O
product | N-t-Butoxycarbonyl-trans-3-methyl-L-proline | 1.6 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)[C@H](CC1)C | C11H19NO4
